US05618792
To a stirred solution of N-benzyloxycarbonyl-L-valinol (8.80 g, 0.037 mol) and triethylamine (30.00 g, 41.3 mL, 0.30 mol) in 100 mL dimethylsulfoxide under a nitrogen atmosphere was added a solution of sulfur trioxide pyridine complex (20.62 g, 0.130 mol) in dimethylsulfoxide (100 mL) dropwise via an addition funnel. An ice water bath was used to maintain the temperature of the reaction mixture below room temperature during the addition. After 30 min the cooling bath was removed and the reaction was allowed to warm to room temperature over 2 h. The brown solution was acidified with cold 2 N HCl to approximately pH 2 and extracted with ether (3×150 mL). The combined organic layers were washed with brine, dried (anhydrous magnesium sulfate) and evaporated to give 7.40 g of N-benzyloxycarbonyl-L-valinal (84.8%) as a yellow oil. The resulting material can be used without purification or further purified using column chromatography (silica gel, 9:1 hexanes:ethyl acetate).

reactant | N-benzyloxycarbonyl-L-valinol | 0.037 mol, 8.80 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)CO | C13H19NO3
reactant | triethylamine | 0.30 mol, 41.3 mL, 30.00 g | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 100 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 100 mL | CS(=O)C | C2H6OS
product | N-benzyloxycarbonyl-L-valinal | 7.40 g, 84.8% | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C=O | C13H17NO3
